US04960771
Preparation of 3-(2-octyloxyethyl)oxazolidin-2-one
To 5.12 g of 60% NaH in 130 ml of THF and 30 ml of DMF was added 12.9 of 3-(2-hydroxyethyl)oxazolidin-2-one and the contents were refluxed for 2 hours. 17 g of 1-bromooctane was added and the reaction mixture was refluxed overnight. It was cooled, poured into water and extracted with ether. The combined organic extracts were dried, concentrated and the residue Was kugelrohr distilled (150°-155° C./0.5 mm) to give 16.87 g (79.6%) of an oil.

reactant | NaH | 5.12 g | [H-].[Na+]
reactant | 3-(2-hydroxyethyl)oxazolidin-2-one | OCCN1C(OCC1)=O | C5H9NO3
reactant | 1-bromooctane | 17 g | BrCCCCCCCC | C8H17Br
reactant | water | O | H2O
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-(2-octyloxyethyl)oxazolidin-2-one | 16.87 g, 79.6% | C(CCCCCCC)OCCN1C(OCC1)=O | C13H25NO3
